US05929067
3-[N'-(3,5-Bistrifluoromethyl-benzoyl)-N'-methyl-amino]-4,4-diphenyl-butanoic acid N-(4-cyclohexyl-phenyl)-amide
A solution of 0.05 ml (0.362 mmol) of triethylamine and 37 mg (0.0726 mmol) of 3-[N-(3,5-bistrifluoromethyl-benzoyl)-N-methyl-amino]-4,4-diphenyl-butanoic acid in 0.5 ml of methylene chloride and a solution of 30.6 mg (0.289 mmol) of 1-propanephosphonic acid anhydride in 0.5 ml of methylene chloride are added in succession to 15.2 mg (0.087 mmol) of 4-cyclohexylaniline and the mixture is left to stand at room temperature for 24 hours. The reaction mixture is then washed with 0.5 ml of a 1N aqueous potassium carbonate solution. The organic phase is concentrated by evaporation in a vacuum centrifuge. The title compound is obtained in the form of a white foam. TLC: methylene chloride/methanol (95:5) Rf =0.44

reactant | triethylamine | 0.362 mmol, 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | 3-[N-(3,5-bistrifluoromethyl-benzoyl)-N-methyl-amino]-4,4-diphenyl-butanoic acid | 0.0726 mmol, 37 mg | FC(C=1C=C(C(=O)N(C)C(CC(=O)O)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C26H21F6NO3
reactant | 4-cyclohexylaniline | 0.087 mmol, 15.2 mg | C1(CCCCC1)C1=CC=C(N)C=C1 | C12H17N
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.5 ml | C(Cl)Cl | CH2Cl2
product | 3-[N'-(3,5-Bistrifluoromethyl-benzoyl)-N'-methyl-amino]-4,4-diphenyl-butanoic acid N-(4-cyclohexyl-phenyl)-amide | C1(CCCCC1)C1=CC=C(C=C1)NC(CC(C(C1=CC=CC=C1)C1=CC=CC=C1)N(C)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C38H36F6N2O2
